US03989701
7.1 g. of 3-nitro-4-(N-ethyl-N-cyclohexylamino)-benzophenone are dissolved in a 1:1 mixture of benzene and ethyl acetate, and 0.7 g. of palladiumized carbon are added to the mixture. The mixture is hydrogenated at room temperature and 3 atm. hydrogen pressure until the uptake of the calculated amount of hydrogen (this requires about one hour). Thereafter the catalyst is removed by filtration, and the filtrate is evaporated to dryness under reduced pressure. 6.35 g. of crude product are obtained. After recrystallization from isopropanol, 5.8 g. of pure 3-amino-4-(N-ethyl-N-cyclohexylamino)-benzophenone, melting at 106.5°-107.5° C are obtained.

reactant | 3-nitro-4-(N-ethyl-N-cyclohexylamino)-benzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1N(C1CCCCC1)CC | C21H24N2O3
reactant | hydrogen | [H][H] | H2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-4-(N-ethyl-N-cyclohexylamino)-benzophenone | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N(C1CCCCC1)CC | C21H26N2O
